2187-06-10 07:25:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
   Patient received 3 units of PRBCs since admission to ICU (6 units
   total)
   Patient had a BM overnight that was guiac positive but not grossly
   positive
   Her blood pressure has remained stable overnight.
   GI did EGD this morning.  They wish to prep her for colonoscopy
   tomorrow morning with Mag-citrate.  They are going to follow up re:
   [**Location (un) 103**] on Panc mass.
   Subjective:  She feels better this morning.  She denies any current
   complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-6-10**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 82 (82 - 92) bpm
   BP: 117/102(105) {117/71(84) - 143/102(105)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                      2 mL
                                                                  1,778 mL
   PO:
           TF:
   IVF:
                                                                      2 mL
                                                                    564 mL
   Blood products:
   1,015 mL
   Total out:
                                                                  1,900 mL
                                                                  1,750 mL
   Urine:
                                                                  1,900 mL
                                                                  1,650 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                 -1,898 mL
                                                                     28 mL
   Respiratory support
   SpO2: 96%
   Physical Examination
   GEN: lying comfortably in bed, NAD
   HEENT: moist mucosa
   CV: RRR, S1 & S2 nl, no m/r/g
   ABD: +BS, Non-tender, ND, no masses
   GU: no hemorroids or fissures on external rectum
   EXT:  warm, dry, 2+ peripheral pulses
   Labs / Radiology
   21.9
        [image002.jpg]
   AM LABS PENDING -
                             [**2187-6-9**]  11:54 PM
   Hct
   21.9
   PROBLEM LIST:
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ALCOHOL ABUSE
 PANCREATITIS, CHRONIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Polycystic kidney disease; fatty liver
 HYPERTENSION, BENIGN
   ASSESSMENT & PLAN:
   [**Known firstname 160**] [**Known lastname 158**] is a 42 yo w/h/o EtOH abuse and recently identified
   pancreatic mass in the setting of weight loss who presented with GI
   bleed.
   #GI Bleed: Severe GI bleed according to drop in Hct. The patient is
   fairly hemodynamically stable for such a large blood loss.  Seems to be
   a lower source given the fact that the patient had bright red blood in
   her stools for 4 days and is relatively hemodynamically stable.  If
   bleeding was from an upper source she would likely be less stable
   and/or have melanotic stools.  Possible sources of GI bleed include:
   hemorrhoids and/or rectal fissure (usually not the cause of such
   dramatic Hct drops, but possible if going on for 4 days),
   Diverticulosis and AVM (patient does not fit the typical demographic
   that is at risk for these conditions, but remains possible), malignancy
   (patient recently reports having trouble gaining weight and has
   recently diagnosed pancreatic mass), colitis (UC, infectious or
   ischemic - patient does not have a hx of UC, she has been Afebrile,
   making an infectious eitology less likely. She does not have the
   diffuse pain expected with ischemic colitis, but her lactate was
   increased).
   - PPI IV BID.
   - Tranfuse PRBC with goal Hct of 25-30.  Repeat Hct in low 20's
   - check Hct q 4 hrs around transfusions & check Coags and plts q 12
   hrs.
   - Give 1 unit of FFP for every 6 of PRBCs.
   - Transfuse platelets with goal >25,000
   - consider Red tag scan & angiography if patient appears to be actively
   bleeding; seems to have subsided currently as pt is having brown BM's
   w/o gross blood.
   - Will keep NPO for now
   -Follow up re: GI Recs.
   #Anemia: Baseline high 20s-low 30s.  GI bleed caused a severe drop in
   Hct.
   -monitor Hct q 6hrs (around transfusions)
   -Transfuse for Hct goal of 25-30
   #EtOH abuse: patient reports that last drink was 2 days ago. no s/s of
   acute withdrawal
   - CIWA scale, though low likelihood will need
   #HTN:
   -Patient normally takes Lisinopril 10 mg PO daily (took dose this
   morning); will hold in setting of GIB utnil Hct/HD stable
   -Consider restarting lisinopril
   #Depression/Anxiety:
   -Continue outpatient dose of lorazepam
   -need to confirm outpatient dose of citalopram.
   -- will obtain SW c/s in am for depressed mood
   #Prophylaxis: pneumo boots. hold anticoagulation given recent bleed.
   On PPI.  Hold bowel regimen given diarrhea.
   .
   #Access: 2 large bore PIVs.
   .
   #Contact: brother, [**Name (NI) 161**] [**Name (NI) 162**], phone [**Telephone/Fax (1) 163**]
   .
   #Code: full code
   .
   #Dispo: to remain in ICU overnight for clos eHD monitoring and frequent
   Hct checks
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2187-6-10**] 01:18 AM
   18 Gauge - [**2187-6-10**] 01:19 AM
   20 Gauge - [**2187-6-10**] 06:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-06-11 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-6-10**] 02:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-6-11**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 72 (67 - 102) bpm
   BP: 118/72(81) {109/60(71) - 144/106(115)} mmHg
   RR: 33 (17 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,179 mL
                                                                    712 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,054 mL
                                                                    712 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  4,090 mL
                                                                  1,200 mL
   Urine:
                                                                  3,990 mL
                                                                    800 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,089 mL
                                                                   -488 mL
   Respiratory support
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   9.9 g/dL
   121 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.0 mEq/L
   3 mg/dL
   107 mEq/L
   137 mEq/L
   28.1 %
   5.0 K/uL
        [image002.jpg]
                             [**2187-6-9**]  11:54 PM
                             [**2187-6-10**]  09:40 AM
                             [**2187-6-10**]  01:56 PM
                             [**2187-6-10**]  10:15 PM
                             [**2187-6-11**]  05:28 AM
   WBC
   5.5
   5.0
   Hct
   21.9
   27.6
   29.4
   30.1
   28.1
   Plt
   246
   258
   Cr
   0.4
   0.4
   TropT
   <0.01
   Glucose
   92
   121
   Other labs: PT / PTT / INR:13.9/27.3/1.2, CK / CKMB /
   Troponin-T:58/2/<0.01, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   42 y/o F h/o PKD, EtOH abuse and recently identified pancreatic mass
   a/w GI bleed.
   .
   #GI Bleed: Severe GI bleed according to drop in Hct. The patient is
   fairly hemodynamically stable for such a large blood loss.  Seems to be
   a lower source given the fact that the patient had bright red blood in
   her stools for 4 days and is relatively hemodynamically stable.  If
   bleeding was from an upper source she would likely be less stable
   and/or have melanotic stools.  Possible sources of GI bleed include:
   hemorrhoids and/or rectal fissure (usually not the cause of such
   dramatic Hct drops, but possible if going on for 4 days),
   Diverticulosis and AVM (patient does not fit the typical demographic
   that is at risk for these conditions, but remains possible), malignancy
   (patient recently reports having trouble gaining weight and has
   recently diagnosed pancreatic mass), colitis (UC, infectious or
   ischemic - patient does not have a hx of UC, she has been Afebrile,
   making an infectious eitology less likely. She does not have the
   diffuse pain expected with ischemic colitis, but her lactate was
   increased).
   - PPI IV BID.
   - Tranfuse PRBC with goal Hct of 25-30.  Repeat Hct in low 20's
   - check Hct q 4 hrs around transfusions & check Coags and plts q 12
   hrs.
   - Give 1 unit of FFP for every 6 of PRBCs.
   - Transfuse platelets with goal >25,000
   - consider Red tag scan & angiography if patient appears to be actively
   bleeding; seems to have subsided currently as pt is having brown BM's
   w/o gross blood.
   - Will keep NPO for now
   -Follow up re: GI Recs.
   #Anemia: Baseline high 20s-low 30s.  GI bleed caused a severe drop in
   Hct.
   -monitor Hct q 6hrs (around transfusions)
   -Transfuse for Hct goal of 25-30
   #EtOH abuse: patient reports that last drink was 2 days ago. no s/s of
   acute withdrawal
   - CIWA scale, though low likelihood will need
   #HTN:
   -Patient normally takes Lisinopril 10 mg PO daily (took dose this
   morning); will hold in setting of GIB utnil Hct/HD stable
   -Consider restarting lisinopril
   #Depression/Anxiety:
   -Continue outpatient dose of lorazepam
   -need to confirm outpatient dose of citalopram.
   -- will obtain SW c/s in am for depressed mood
   #Prophylaxis: pneumo boots. hold anticoagulation given recent bleed.
   On PPI.  Hold bowel regimen given diarrhea.
   .
   #Access: 2 large bore PIVs.
   .
   #Contact: brother, [**Name (NI) 161**] [**Name (NI) 162**], phone [**Telephone/Fax (1) 163**]
   .
   #Code: full code
   .
   #Dispo: to remain in ICU overnight for clos eHD monitoring and frequent
   Hct checks
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-6-10**] 01:19 AM
   20 Gauge - [**2187-6-10**] 06:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-06-11 11:06:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   6 units given total.
   EGD--mild gastritis, no focal source of bleeding
   Prep completed for lower endoscopy today
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-6-11**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Nausea
   Flowsheet Data as of  [**2187-6-11**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 87 (67 - 87) bpm
   BP: 135/86(98) {109/60(71) - 144/106(115)} mmHg
   RR: 40 (17 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,180 mL
                                                                  1,102 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,055 mL
                                                                  1,102 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  4,090 mL
                                                                  1,670 mL
   Urine:
                                                                  3,990 mL
                                                                  1,120 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    550 mL
   Drains:
   Balance:
                                                                  1,090 mL
                                                                   -568 mL
   Respiratory support
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Distended
There is mild epigastric discomfort
   which is increased with palpation but no rebound appreciated.
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   258 K/uL
   121 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.0 mEq/L
   3 mg/dL
   107 mEq/L
   137 mEq/L
   28.1 %
   5.0 K/uL
        [image002.jpg]
                             [**2187-6-9**]  11:54 PM
                             [**2187-6-10**]  09:40 AM
                             [**2187-6-10**]  01:56 PM
                             [**2187-6-10**]  10:15 PM
                             [**2187-6-11**]  05:28 AM
   WBC
   5.5
   5.0
   Hct
   21.9
   27.6
   29.4
   30.1
   28.1
   Plt
   246
   258
   Cr
   0.4
   0.4
   TropT
   <0.01
   Glucose
   92
   121
   Other labs: PT / PTT / INR:13.9/27.3/1.2, CK / CKMB /
   Troponin-T:58/2/<0.01, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   46 yo admit with GIB and pancreatic mass without clear diagnosis seen.
   She has had upper endoscopy without conclusion as to source and is
   awaiting lower evaluation.  She has had reasonable stability of HCT
   following 6 units PRBC.
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
   -Source remains to be defined
   -Colonoscopy today
   -2 PIV
s in place
   PPI in place
   -Will need to follow up with cogaulopathy and concern for primary
   source based on colonscopy findings.
 ALCOHOL ABUSE
   -on MVI/Thiamine/Folate
 PANCREATITIS, CHRONIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Polycystic kidney disease; fatty liver
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-6-10**] 01:19 AM
   20 Gauge - [**2187-6-10**] 06:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2187-06-12 07:41:00 Physician Resident Progress Note
Chief Complaint: LGIB
   24 Hour Events:
   Colonoscopy [**6-11**] revealed diverticulosis of the sigmoid colon and
   internal & external hemorrhoids.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-6-11**] 07:48 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Tolerated a regular diet last night. Denies abd
   pain, N/V, diarrhea, hematochezia, melena.
   Flowsheet Data as of  [**2187-6-12**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 71 (64 - 88) bpm
   BP: 118/72(83) {109/71(81) - 135/86(98)} mmHg
   RR: 39 (17 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,724 mL
                  PO:
                                                                    250 mL
                  TF:
   IVF:
                                                                  1,474 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                      0 mL
   Urine:
                                                                  2,710 mL
   NG:
   Stool:
                                                                  1,050 mL
   Drains:
   Balance:
                                                                 -2,036 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   Physical Examination
   GEN: lying comfortably in bed, NAD
   HEENT: moist mucosa
   CV: RRR, S1 & S2 nl, no m/r/g
   ABD: +BS, Non-tender, ND, no masses
   GU: no hemorroids or fissures on external rectum
   EXT:  warm, dry, 2+ peripheral pulses
   Labs / Radiology
   309 K/uL
   9.7 g/dL
   101 mg/dL
   0.4 mg/dL
   21 mEq/L
   4.3 mEq/L
   5 mg/dL
   110 mEq/L
   138 mEq/L
   28.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2187-6-9**]  11:54 PM
                             [**2187-6-10**]  09:40 AM
                             [**2187-6-10**]  01:56 PM
                             [**2187-6-10**]  10:15 PM
                             [**2187-6-11**]  05:28 AM
                             [**2187-6-11**]  04:08 PM
                             [**2187-6-12**]  04:31 AM
   WBC
   5.5
   5.0
   5.1
   Hct
   21.9
   27.6
   29.4
   30.1
   28.1
   30.8
   28.5
   Plt
   [**Telephone/Fax (3) 178**]
   Cr
   0.4
   0.4
   0.4
   TropT
   <0.01
   Glucose
   92
   121
   101
   Other labs: PT / PTT / INR:13.5/26.2/1.2, CK / CKMB /
   Troponin-T:58/2/<0.01, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   CEA 2.8
   CA [**97**]-9 pending
   EGD [**6-10**]: Esophagitis in the gastroesophageal junction
   Schatzki's ring
   Erosions in the antrum
   Erythema and edema in the duodenal bulb, normal second part of the
   duodenum and papilla major compatible with duodenitis
   Diverticulum in the second part of the duodenum
   Colonoscopy [**6-11**]: Diverticulosis of the sigmoid colon
   Grade 1 internal & external hemorrhoids.
   Otherwise normal colonoscopy to terminal ileum
   Assessment and Plan
   42 y/o F h/o PKD, EtOH abuse and recently identified pancreatic mass
   a/w GIB.
   .
   #GI Bleed: Resolved, HD stable, with stable Hct. Likely diverticular
   bleed given colonoscopy findings (amt of blood loss favors
   diveticulosis over hemorrhoids).
   -if rebleeds, consider angio
   -PPI  PO BID
   -Hct daily, x-fuse for Hct < 25%
   -H. pylori serology sent
   .
   #Pancreatic mass
 c/f malignancy based on recent imaging
   -EUS AM [**6-13**]
   -surgery c/s re: options for further imaging and biopsy
   .
   #EtOH abuse: no s/sx of withdrawal
   -CIWA scale
   -PO thiamine, folate, MVI
   .
   #HTN:
   -home dose of lisinopril
   .
   #Anxiety:
   -ativan PRN
   .
   #F/E/N
   -full diet, NPO after MN for EUS
   .
   #Prophylaxis: PPI [**Hospital1 **], venodynes
   .
   #Access: 2 large bore PIVs.
   .
   #Contact: brother, [**Name (NI) 161**] [**Name (NI) 162**], phone [**Telephone/Fax (1) 163**]
   .
   #Code: FULL
   .
   #Dispo: Stable for discharge home, or transfer to floor for o/n stay
   prior to EUS in AM
   ICU Care
   Nutrition: Reg diet; NPO p MN
   Glycemic Control:  well-controlled
   Lines:
   18 Gauge - [**2187-6-10**] 01:19 AM
   20 Gauge - [**2187-6-10**] 06:06 AM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: Stable for discharge home, or transfer to floor for o/n
   stay prior to EUS in AM

2187-06-12 11:35:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 COLONOSCOPY - At [**2187-6-11**] 03:00 PM--incomplete answer as to source
   but diverticular source suggested
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-6-11**] 07:48 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2187-6-12**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 71 (64 - 88) bpm
   BP: 129/81(92) {109/71(81) - 133/85(96)} mmHg
   RR: 15 (15 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,724 mL
                  PO:
                                                                    250 mL
                  TF:
   IVF:
                                                                  1,474 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                      0 mL
   Urine:
                                                                  2,710 mL
   NG:
   Stool:
                                                                  1,050 mL
   Drains:
   Balance:
                                                                 -2,036 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   309 K/uL
   101 mg/dL
   0.4 mg/dL
   21 mEq/L
   4.3 mEq/L
   5 mg/dL
   110 mEq/L
   138 mEq/L
   28.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2187-6-9**]  11:54 PM
                             [**2187-6-10**]  09:40 AM
                             [**2187-6-10**]  01:56 PM
                             [**2187-6-10**]  10:15 PM
                             [**2187-6-11**]  05:28 AM
                             [**2187-6-11**]  04:08 PM
                             [**2187-6-12**]  04:31 AM
   WBC
   5.5
   5.0
   5.1
   Hct
   21.9
   27.6
   29.4
   30.1
   28.1
   30.8
   28.5
   Plt
   [**Telephone/Fax (3) 178**]
   Cr
   0.4
   0.4
   0.4
   TropT
   <0.01
   Glucose
   92
   121
   101
   Other labs: PT / PTT / INR:13.5/26.2/1.2, CK / CKMB /
   Troponin-T:58/2/<0.01, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   42 yo female admit with GIB.  She has issue of pancreatic mass which is
   of concern for diagnostic evaluation.  She has, to date, EGD and
   colonscopy for evaluation of source which has been unrevealing.
   Current plan is for monitoring of HCT and evaluation with ultrasound
   guidance for biopsy of pancreatic lesion which is scheduled for [**2187-6-13**]
   for evaluation.
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   with good HCT stability, goal for further exam tomorrow.  Will discuss
   timing of intervention with surgical and GI teams.  Will need PPI to
   continue.  If patient discharged will need clear instructions in
   regards to signs/symptoms to follow.  Working Dx is diverticular
   bleeding.
 ALCOHOL ABUSE
 PANCREATITIS, CHRONIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Polycystic kidney disease; fatty liver
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-6-10**] 01:19 AM
   20 Gauge - [**2187-6-10**] 06:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FUll
   Disposition :To Floor
   Total time spent: 45